US05846982
5-chloro-2-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene
A solution of 0.60 gm (3.56 mMol) 5-chlorobenzothiophene 1.55 mL in 20 mL freshly distilled tetrahydrofuran was cooled to -78° C. under a nitrogen atmosphere. To this was then added a solution of 2.94 mL (3.56 mMol) n-butyllithium and the reaction mixture was stirred at -78° C. for 1 hour. To the resulting anion solution was added dropwise a solution of 0.779 gm (3.91 mMol) 1-tert-butoxycarbonyl-4-piperidone and then the reaction mixture was allowed to warm to 0° C. The reaction mixture was then quenched with saturated aqueous sodium bicarbonate, diluted with 1:1 hexanes:diethyl ether and the phases separated. The organic phase was washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash silica chromatography, eluting with toluene containing 10% ethyl acetate. Fractions shown to contain product were combined and concentrated under reduced pressure to give 1.09 gm of the desired compound as a colorless foam contaminated with 20% 1-tert-butoxycarbonyl-4-piperidone.

reactant | 5-chlorobenzothiophene | 3.56 mMol, 1.55 mL, 0.60 gm | ClC=1C=CC2=C(C=CS2)C1 | C8H5ClS
reactant | n-butyllithium | 3.56 mMol, 2.94 mL | C(CCC)[Li]
reactant | 1-tert-butoxycarbonyl-4-piperidone | 3.91 mMol, 0.779 gm | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-chloro-2-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene | 1.09 gm | ClC=1C=CC2=C(C=C(S2)C2(CCN(CC2)C(=O)OC(C)(C)C)O)C1 | C18H22ClNO3S
